US07842688B2
c) N-(2,5-Difluorophenyl)-3-hydroxypropionamide
4 ml of a solution of diethylaluminum chloride (1M in hexane) is added dropwise at 0° C. to a solution of 0.519 g of 2,5-difluoroaniline in 10 ml of anhydrous dichloromethane. The reaction solution is stirred at room temperature for a further 20 minutes and subsequently cooled back to 0° C. A solution of 0.147 g of propiolactone in 8 ml of dichloromethane is added dropwise and the reaction mixture is stirred at room temperature over a further 2 hours. The reaction mixture is subsequently hydrolysed at 0° C. with 30 ml of 0.2M HCl and the phases are separated. The aqueous phase is re-extracted with 2×50 ml of dichloromethane and the combined organic phases are washed with 50 ml of water, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a beige solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.15 (1:1 EtOAc-heptane); Rt=2.62.

reactant | diethylaluminum chloride | 1M | [Cl-].C(C)[Al+]CC
reactant | 2,5-difluoroaniline | 0.519 g | FC1=C(N)C=C(C=C1)F | C6H5F2N
reactant | propiolactone | 0.147 g | C1(CCO1)=O | C3H4O2
reactant | HCl | 0.2M, 30 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-(2,5-Difluorophenyl)-3-hydroxypropionamide | FC1=C(C=C(C=C1)F)NC(CCO)=O | C9H9F2NO2
